US04001237
4-Amino-6,7-dimethoxy-2-[4-(oxazole-4-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
A solution of oxazole-4-carbonyl chloride (0.73 g., 5.53 mmole) in dioxane was added to a solution of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (1.60 g., 5.53 mmole) in dioxane. The mixture was heated at reflux for 0.5 hour, then was stirred at 20° C. for 64 hours. Filtration gave the title compound having a m.p. of 291°-294° C. with decomposition after recrystallization from acqueous ethanol.

reactant | oxazole-4-carbonyl chloride | 5.53 mmole, 0.73 g | O1C=NC(=C1)C(=O)Cl | C4H2ClNO2
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 5.53 mmole, 1.60 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethoxy-2-[4-(oxazole-4-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1N=COC1 | InChI=1S/C18H20N6O4.ClH/c1-26-14-7-11-12(8-15(14)27-2)21-18(22-16(11)19)24-5-3-23(4-6-24)17(25)13-9-28-10-20-13;/h7-10H,3-6H2,1-2H3,(H2,19,21,22);1H
